US06479621B2
Also, in Macromolecules, 29, 3432-3435 (1996), it is reported that using Pseudomonas oleovorans, PHA containing 3-hydroxy-4-phenoxybutyric acid and 3-hydroxy-6-phenoxyhexanoic acid as units is produced from 6-phenoxyhexanoic acid, PHA containing 3-hydroxy-4-phenoxybutyric acid, 3-hydroxy-6-phenoxyhexanoic acid and 3-hydroxy-8-phenoxyoctanoic acid as units is produced from 8-phenoxyoctanoic acid, and PHA containing 3-hydroxy-5-phenoxyvaleric acid and 3-hydroxy-7-phenoxyheptanoic acid as units is produced from 11-phenoxyundecanoic acid. Yields of polymers in this report are extracted and are shown in the following.

reactant | 3-hydroxy-5-phenoxyvaleric acid | OC(CC(=O)O)CCOC1=CC=CC=C1 | C11H14O4
reactant | 3-hydroxy-7-phenoxyheptanoic acid | OC(CC(=O)O)CCCCOC1=CC=CC=C1 | C13H18O4
product | 11-phenoxyundecanoic acid | O(C1=CC=CC=C1)CCCCCCCCCCC(=O)O | C17H26O3
